US04535183
3,4-Dimethoxyphenol (30.8 g) was added in small portions to a mixture of dihydropyran (29.2 ml) and conc. hydrochloric acid (3 drops) under nitrogen so that the temperature did not rise above 50° C. After the addition was complete the dark solution was stirred at room temperature for 3 hrs. and then diluted with ether. The resulting solution was washed with water, 2 N sodium hydroxide solution, water, dried (sodium sulphate) and evaporated to give 3,4-dimethoxyphenol tetrahydropyranyl ether.

reactant | 3,4-Dimethoxyphenol | 30.8 g | COC=1C=C(C=CC1OC)O | C8H10O3
reactant | dihydropyran | 29.2 ml | O1CCCC=C1 | C5H8O
catalyst | hydrochloric acid | 3 drops | Cl | ClH
solvent | ether | CCOCC | C4H10O
product | 3,4-dimethoxyphenol tetrahydropyranyl ether | O1C(CCCC1)OC1=CC(=C(C=C1)OC)OC | C13H18O4
